US07893056B2
A solution of [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (118 mg) in 4:1 AcOH:water (20 mL) was stirred at room temperature for 3 days. The solvents were removed in vacuo, and the resulting crude product was purified by RP-HPLC to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide (65 mg, 64%). LCMS: (M+H)+: 478.1.

reactant | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 118 mg | C1(CCCC1)C[C@H](CN(C=O)OC1OCCCC1)C(=O)NNC1=NC(=NC(=C1F)N1CC(C1)(N1CCCC1)C)C | C28H44FN7O4
reactant | AcOH | CC(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 65 mg, 64% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1CC(C1)(N1CCCC1)C)C | C23H36FN7O3
